US04622332
5-Decyl 3-ethyl 2-amino-1,4-dihydro-6-methyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate
A solution of 1.15 g (50 mmol) of sodium in 100 ml of ethanol was added dropwise at room temperature, with stirring, to a solution of 18.8 g (50 mmol) of decyl 2-(3-nitrobenzylidene)acetoacetate and 8.3 g (50 mmol) of ethyl amidinoacetate hydrochloride in 250 ml of ethanol. The mixture was then heated to boiling for 15 minutes. After standing overnight, the precipitated sodium chloride was filtered off, the filtrate was evaporated in vacuo and the oily residue was brought to crystallization by trituration with ether/petroleum ether. The crude product was filtered off with suction and recrystallized from ethanol, melting point: 190°-191° C.

reactant | sodium | 50 mmol, 1.15 g | [Na] | Na
reactant | decyl 2-(3-nitrobenzylidene)acetoacetate | 50 mmol, 18.8 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCCCCCCCCC)C(=O)C)C=CC1 | C21H29NO5
reactant | ethyl amidinoacetate hydrochloride | 50 mmol, 8.3 g | Cl.C(N)(=N)CC(=O)OCC
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-Decyl 3-ethyl 2-amino-1,4-dihydro-6-methyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | NC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCC)C | C26H37N3O6
